US08557802B2
2-Diazo-1-(4-bromo-3-fluorophenyl)ethanone
To a methylene chloride (50.0 mL) solution of 4-bromo-3-fluorobenzoic acid (5.00 g, 22.8 mmol), dimethylformamide (5 droplets) and oxalyl chloride (2.39 mL, 27.4 mmol) were added at room temperature, and the mixture was stirred for 1.5 hours at the same temperature. Subsequently, the solvent was distilled off under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (15.0 mL)-acetonitrile (15.0 mL), and triethylamine (6.36 mL, 45.7 mmol) and a 2 M-trimethylsilyldiazomethane tetrahydrofuran solution (22.8 mL, 45.7 mmol) were added to the solution at room temperature. The mixture was stirred for 30 minutes. Water was added to the reaction mixture, and the mixture was subjected to extraction two times with ethyl acetate. The organic layer was washed with saturated brine, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was washed with hexane-ethyl acetate (10:1, v/v). Thus, a crude product of the title compound (3.36 g) was obtained.

reactant | methylene chloride | 50.0 mL | C(Cl)Cl | CH2Cl2
reactant | 4-bromo-3-fluorobenzoic acid | 22.8 mmol, 5.00 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | oxalyl chloride | 27.4 mmol, 2.39 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 45.7 mmol, 6.36 mL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 15.0 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 15.0 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Diazo-1-(4-bromo-3-fluorophenyl)ethanone | 3.36 g | [N+](=[N-])=CC(=O)C1=CC(=C(C=C1)Br)F | C8H4BrFN2O
